Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
===============
___ 10:52AM BLOOD WBC-8.8 RBC-5.43 Hgb-15.9 Hct-48.9 MCV-90 
MCH-29.3 MCHC-32.5 RDW-12.9 RDWSD-42.4 Plt ___
___ 10:52AM BLOOD Neuts-62.6 ___ Monos-8.2 Eos-4.6 
Baso-1.0 Im ___ AbsNeut-5.49 AbsLymp-2.04 AbsMono-0.72 
AbsEos-0.40 AbsBaso-0.09*
___ 10:52AM BLOOD Glucose-98 UreaN-12 Creat-1.0 Na-139 
K-5.5* Cl-106 HCO3-14* AnGap-19*
___ 10:52AM BLOOD Albumin-4.8 Calcium-9.8 Phos-4.1 Mg-2.3
___ 10:52AM BLOOD ALT-16 AST-34 AlkPhos-72 TotBili-0.4
___ 10:52AM BLOOD cTropnT-<0.01 proBNP-17
___ 10:52AM BLOOD TSH-1.3
___ 06:42AM BLOOD Free T4-1.1
___ 10:52AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:00PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS
===============
___ 06:42AM BLOOD WBC-8.6 RBC-5.04 Hgb-14.9 Hct-45.9 MCV-91 
MCH-29.6 MCHC-32.5 RDW-13.1 RDWSD-44.3 Plt ___
___ 06:42AM BLOOD ___ PTT-27.0 ___
___ 06:42AM BLOOD Glucose-97 UreaN-17 Creat-1.1 Na-142 
K-4.5 Cl-107 HCO3-23 AnGap-12
___ 06:42AM BLOOD Calcium-9.3 Phos-5.3* Mg-2.3
___ 06:42AM BLOOD ALT-14 AST-13 AlkPhos-67 TotBili-0.2

STUDIES
========
___ CXR
A 2 cm nodular density in the right perihilar region without 
definite 
correlate on the lateral view.  Given possibility of the 
underlying pulmonary nodule, chest CT is suggested to further 
characterize. 

___ TTE
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color
Doppler. The estimated right atrial pressure is ___ mmHg. The 
left ventricle has a normal cavity size.
There is normal regional left ventricular systolic function. 
Overall left ventricular systolic function is
low normal. There is beat-to-beat variability in the left 
ventricular contractility due to the irregular
rhythm. The visually estimated left ventricular ejection 
fraction is 50-55%. Left ventricular cardiac
index is low normal (2.0-2.5 L/min/m2). There is no resting left 
ventricular outflow tract gradient. No
ventricular septal defect is seen. Normal right ventricular 
cavity size with normal free wall motion. The
aortic sinus diameter is normal for gender with a normal 
ascending aorta diameter for gender. There is
no evidence for an aortic arch coarctation. The aortic valve 
leaflets (?#) are mildly thickened. There is
no aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets are mildly thickened
with no mitral valve prolapse. There is mild [1+] mitral 
regurgitation. The pulmonic valve leaflets are
normal. The tricuspid valve leaflets appear structurally normal. 
There is physiologic tricuspid
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial
effusion.
IMPRESSION: Frequent ectopy. Low normal left ventricular 
systolic function. Mild mitral
regurgitation.No prior study available for comparison.

___ STRESS EKG
INTERPRETATION: This ___ year old man with h/o HTN, HLD and 
family 
history of pre-mature CAD was referred to the lab for evaluation 
of 
palpitations. He exercised for 12 minutes on ___ protocol and 
stopped 
for fatigue. The peak estimated MET capacity is 12.9, which 
represents a 
good exercise tolerance for his age. No chest, arm, neck, back 
discomfort, palpitations or lightheadedness reported. No 
significant ST 
segment changes noticed. Rhythm was sinus with one isolated APB 
and two 
isolated VPBs noticed. Appropriate HR and BP response to 
exercise and 
recovery. 
IMPRESSION : No malignant arrhythmia, anginal symptoms or 
ischemic EKG 
changes to the achieved workload. Good functional capacity with 
appropriate hemodynamic response to exercise. 
 
Brief Hospital Course:
TRANSITIONAL ISSUES
===================
[] Inpatient atrius cardiology consult recommended Zio patch for 
outpatient monitoring of arrhythmias given his palpitations. The 
patient preferred to leave the hospital and have this placed as 
an outpatient.
[] TSH and Lyme testing pending at discharge. These results 
should be followed up at his next appointment.
[] Consider chest CT to further characterize a 2 cm nodular 
density in the right perihilar region without definite correlate 
on the lateral view. Possibility of the underlying pulmonary 
nodule.

ASSESSMENT AND PLAN:
====================
___ hx HTN, HLD, p/w heart palpitations and lightheadedness, 
which he reports were increasing in frequency/duration. EKG 
notable for atrial premature beats. He was monitored on 
telemetry which was notable for APBs. He was seen by ___ 
cardiology while inpatient, who recommended stress test and Zio 
patch. Stress EKG was normal w/o worsening of APBs or ischemic 
changes. Patient deferred Zio patch to outpatient setting as he 
wished to leave the hospital as soon as possible given his 
normal stress test. He was instructed to follow up with At___ 
cardiology for an outpatient heart monitor and further 
evaluation of his atrial premature beats.

ACUTE ISSUES:
=============
# palpitations
# presyncope
Pt reported heart palpitations and lightheadedness for past 
three weeks. Arrived tachycardic to 100's, received metoprolol 
per Atrius cards recs in ED and subsequently became bradycardic 
to 40's. EKG notable for atrial premature beats. Echo notable 
for frequent ectopy. Etiology of palpitations is unclear. TSH 
within normal limits. Patient was counseled regarding excessive 
caffeine intake as this may be contributing, but seems unlikely 
to be the cause of his APBs. Orthostatic vitals were normal, 
thus lightheadedness/presyncope most likely related to 
palpitations. He was monitored on telemetry which was notable 
for continued APBs. ___ cardiology was consulted, who 
recommended stress test and Zio patch. Stress EKG was normal w/o 
worsening of APBs or ischemic changes. Patient deferred Zio 
patch to outpatient setting as he wished to leave the hospital 
as soon as possible given his normal stress test, which we were 
in agreement with. He is to follow up with At___ cardiology on 
his own for an outpatient heart monitor.

CHRONIC ISSUES:
===============
#HTN
Home amlodipine was held in setting of normotension, 
lightheadedness. This was resumed on discharge.

HLD
Continued home atorvastatin

#Glaucoma
Continued home eye drops
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Atorvastatin 20 mg PO QPM  
3.  Cetirizine 10 mg PO DAILY  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Palpitations

SECONDARY:
Hypertension
Hyperlipidemia
Glaucoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you felt that your heart was 
skipping a beat and we were concerned about your abnormal heart 
rhythm 

WHAT HAPPENED IN THE HOSPITAL?  
============================== 
- We monitored you on the heart monitor in the hospital 
(telemetry). 
 
- We saw an unusual rhythm on telemetry, so we had the 
cardiologist see you, and they were not worried about your heart 
rhythm.

- We did a stress test, recommended by the cardiologist who saw 
you. This was normal.

- We were unable to get you the heart monitor that the 
cardiologist recommended. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 
- Please follow up with a cardiologist (___ cardiology phone 
number below at ___ to have the heart monitor placed

We wish you the best! 

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___